US07557215B2
1-(2-Amino-ethyl)-piperidin-4-ol (S8)
The method follows that of S6 using 4-hydroxy-piperidin-1-yl-acetonitrile (18.97 g, 0.136 mol), LiAlH4 (15.48 g, 0.408 mol) and dry THF (150 mL). The title compound (8.56 g, 44%) was afforded as a straw-coloured oil after kugelrohr distillation (178° C., 0.05 mbar). δH(250 MHz; CDCl3); 1.55 (m, 2H, 1×CHCH2CH2 and 1×CH2CH2CH), 1.85 (m, 2H, 1×CHCH2CH2 and 1×CH2CH2CH), 2-2.25 (m, 5H, NCH2CH2, NCH2CH2 and OH), 2.38 (t, 2H, H2NCH2CH2N), 2.72 (t, 4H, H2NCH2CH2N, NH2) and 3.65 (m, 1H, CH2CHOH); δC(62.9 MHz; CDCl3); 34.56, 38.98, 51.35, 60.84 and 67.64; FAB MS, m/z(M+H)+ 145; IR υmax/cm−1; 3375 (broad), 1600, 1460, 1370, 1290 and 1070.

reactant | 4-hydroxy-piperidin-1-yl-acetonitrile | 0.136 mol, 18.97 g | OC1CCN(CC1)CC#N | C7H12N2O
reactant | LiAlH4 | 0.408 mol, 15.48 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-(2-Amino-ethyl)-piperidin-4-ol | 8.56 g, 44% | NCCN1CCC(CC1)O | C7H16N2O
